US04704459
In 7 ml of N,N-dimethylformamide was suspended 700 mg of methyl 6-chloro-2-(2,4-difluorophenylamino)-5-fluoronicotinate, and to the resulting suspension were added 340 mg of triethylamine and 210 mg of ethanethiol at room temperature, after which the resulting mixture was subjected to reaction at 50° C. for 4 hours. Subsequently, 40 ml of ethyl acetate and 30 ml of water were added to the reaction mixture, and the pH of the mixture was adjusted to 2 with 2N hydrochloric acid. The organic layer was separated, washed with successively with 20 ml of water and 20 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and to the crystalline material thus obtained was added 10 ml of hexane, after which crystals were collected by filtration to obtain 620 mg (yield 81.9%) of methyl 6-ethylthio-2-(2,4-difluorophenylamino)-5-fluoronicotinate having a melting point of 113°-114° C.

reactant | methyl 6-chloro-2-(2,4-difluorophenylamino)-5-fluoronicotinate | 700 mg | ClC1=NC(=C(C(=O)OC)C=C1F)NC1=C(C=C(C=C1)F)F | C13H8ClF3N2O2
reactant | triethylamine | 340 mg | C(C)N(CC)CC | C6H15N
reactant | ethanethiol | 210 mg | C(C)S | C2H6S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | hexane | 10 ml | CCCCCC | C6H14
solvent | water | 30 ml | O | H2O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | methyl 6-ethylthio-2-(2,4-difluorophenylamino)-5-fluoronicotinate | 620 mg, yield 81.9% | C(C)SC1=NC(=C(C(=O)OC)C=C1F)NC1=C(C=C(C=C1)F)F | C15H13F3N2O2S
